### PR TITLE
chore: adaptations for lean4#12325 (classDefReducibility)

### PR DESCRIPTION
**Pull request by kim-em**
This PR adds `@[implicit_reducible]` to class-typed `def`s where safe, and disables the `classDefReducibility` warning where adding the attribute causes downstream breakage, for https://github.com/leanprover/lean4/pull/12325.

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by kim-em** [comment]
\!radar

**Comment by kim-em** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4-nightly-testing/commits/d6d02d24d68edd150e2613589f90f7c95bc3e634?reference=6ef7a9da0138c81e3d4f7b5981cd4e93ba07bc1d) for d6d02d24d68edd150e2613589f90f7c95bc3e634 against 6ef7a9da0138c81e3d4f7b5981cd4e93ba07bc1d are in! @kim-em

- `build//instructions`: **+40.9G** (**+0.02%**)

No significant changes detected.

File: Mathlib/Algebra/Algebra/ZMod.lean [hunk 1]
```diff
@@ -49,7 +49,9 @@ abbrev algebra (p : ℕ) [CharP R p] : Algebra (ZMod p) R :=
 
 set_option backward.isDefEq.respectTransparency false in
 /-- Any ring with a `ZMod p`-module structure can be upgraded to a `ZMod p`-algebra. Not an
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Algebra/Algebra/ZMod.lean:52]:
```suggestion
```

File: Mathlib/Algebra/BrauerGroup/Defs.lean [hunk 2]
```diff
@@ -89,6 +89,7 @@ end IsBrauerEquivalent
 variable (K)
 
 /-- `CSA` equipped with Brauer Equivalence is indeed a setoid. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Algebra/BrauerGroup/Defs.lean:92]:
```suggestion
```

File: Mathlib/CategoryTheory/IsConnected.lean [hunk 3]
```diff
@@ -365,6 +365,7 @@ theorem Zigzag.of_inv_inv {j₁ j₂ j₃ : J} (f₂₁ : j₂ ⟶ j₁) (f₃
 /-- The setoid given by the equivalence relation `Zigzag`. A quotient for this
 setoid is a connected component of the category.
 -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/CategoryTheory/IsConnected.lean:368]:
```suggestion
```

File: Mathlib/Combinatorics/Quiver/ConnectedComponent.lean [hunk 4]
```diff
@@ -36,6 +36,7 @@ variable (V : Type*) [Quiver.{u} V]
 
 /-- Two vertices are related in the zigzag setoid if there is a
 zigzag of arrows from one to the other. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Combinatorics/Quiver/ConnectedComponent.lean:39]:
```suggestion
```

File: Mathlib/Combinatorics/Quiver/ConnectedComponent.lean [hunk 5]
```diff
@@ -114,6 +115,7 @@ lemma IsSStronglyConnected.isStronglyConnected
   intro i j; obtain ⟨p, _⟩ := h i j; exact ⟨p⟩
 
 /-- Equivalence relation identifying vertices connected by directed paths in both directions. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Combinatorics/Quiver/ConnectedComponent.lean:118]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean [hunk 6]
```diff
@@ -197,6 +197,7 @@ lemma not_reachable_of_right_degree_zero {G : SimpleGraph V} {u v : V} [Fintype
   exact not_reachable_of_left_degree_zero huv.symm hu
 
 /-- The equivalence relation on vertices given by `SimpleGraph.Reachable`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean:200]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean [hunk 7]
```diff
@@ -165,6 +165,7 @@ theorem equivalence_not_adj : Equivalence (¬G.Adj · ·) where
 
 /-- The non-adjacency setoid over the vertices of a Turán-maximal graph
 induced by `equivalence_not_adj`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Combinatorics/SimpleGraph/Extremal/Turan.lean:168]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 8]
```diff
@@ -71,6 +71,7 @@ theorem bot_isCompleteMultipartite : (⊥ : SimpleGraph α).IsCompleteMultiparti
 
 variable {G : SimpleGraph α}
 /-- The setoid given by non-adjacency -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:74]:
```suggestion
```

File: Mathlib/Computability/Tape.lean [hunk 9]
```diff
@@ -115,6 +115,7 @@ theorem BlankRel.equivalence (Γ) [Inhabited Γ] : Equivalence (@BlankRel Γ _)
   ⟨BlankRel.refl, @BlankRel.symm _ _, @BlankRel.trans _ _⟩
 
 /-- Construct a setoid instance for `BlankRel`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Computability/Tape.lean:118]:
```suggestion
```

File: Mathlib/Data/List/Rotate.lean [hunk 10]
```diff
@@ -396,6 +396,7 @@ theorem IsRotated.eqv : Equivalence (@IsRotated α) :=
   Equivalence.mk IsRotated.refl IsRotated.symm IsRotated.trans
 
 /-- The relation `List.IsRotated l l'` forms a `Setoid` of cycles. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Data/List/Rotate.lean:399]:
```suggestion
```

File: Mathlib/Data/Setoid/Basic.lean [hunk 11]
```diff
@@ -70,6 +70,7 @@ theorem comm' (s : Setoid α) {x y} : s x y ↔ s y x :=
 open scoped Function -- required for scoped `on` notation
 
 /-- The kernel of a function is an equivalence relation. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Data/Setoid/Basic.lean:73]:
```suggestion
```

File: Mathlib/Data/Setoid/Partition.lean [hunk 12]
```diff
@@ -47,6 +47,7 @@ theorem eq_of_mem_eqv_class {c : Set (Set α)} (H : ∀ a, ∃! b ∈ c, a ∈ b
   (H x).unique ⟨hc, hb⟩ ⟨hc', hb'⟩
 
 /-- Makes an equivalence relation from a set of sets partitioning α. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Data/Setoid/Partition.lean:50]:
```suggestion
```

File: Mathlib/Data/Setoid/Partition.lean [hunk 13]
```diff
@@ -142,6 +143,7 @@ theorem eqv_classes_of_disjoint_union {c : Set (Set α)} (hu : Set.sUnion c = @S
   ExistsUnique.intro b ⟨hc, ha⟩ fun _ hc' => H.elim_set hc'.1 hc _ hc'.2 ha
 
 /-- Makes an equivalence relation from a set of disjoints sets covering α. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Data/Setoid/Partition.lean:146]:
```suggestion
```

File: Mathlib/FieldTheory/Minpoly/IsConjRoot.lean [hunk 14]
```diff
@@ -82,6 +82,7 @@ variable (R A) in
 /--
 The setoid structure on `A` defined by the equivalence relation of `IsConjRoot R · ·`.
 -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/FieldTheory/Minpoly/IsConjRoot.lean:85]:
```suggestion
```

File: Mathlib/GroupTheory/Perm/Cycle/Basic.lean [hunk 15]
```diff
@@ -78,6 +78,7 @@ theorem SameCycle.equivalence : Equivalence (SameCycle f) :=
   ⟨SameCycle.refl f, SameCycle.symm, SameCycle.trans⟩
 
 /-- The setoid defined by the `SameCycle` relation. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/GroupTheory/Perm/Cycle/Basic.lean:81]:
```suggestion
```

File: Mathlib/GroupTheory/Perm/Sign.lean [hunk 16]
```diff
@@ -44,6 +44,7 @@ namespace Equiv.Perm
 We use this to partition permutations in `Matrix.det_zero_of_row_eq`, such that each partition
 sums up to `0`.
 -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/GroupTheory/Perm/Sign.lean:47]:
```suggestion
```

File: Mathlib/GroupTheory/DoubleCoset.lean [hunk 17]
```diff
@@ -72,6 +72,7 @@ theorem eq_of_not_disjoint {H K : Subgroup G} {a b : G}
   apply doubleCoset_eq_of_mem ha
 
 /-- The setoid defined by the double_coset relation -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/GroupTheory/DoubleCoset.lean:75]:
```suggestion
```

File: Mathlib/LinearAlgebra/Projectivization/Basic.lean [hunk 18]
```diff
@@ -39,6 +39,7 @@ We have three ways to construct terms of `ℙ K V`:
 variable (K V : Type*) [DivisionRing K] [AddCommGroup V] [Module K V]
 
 /-- The setoid whose quotient is the projectivization of `V`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/LinearAlgebra/Projectivization/Basic.lean:42]:
```suggestion
```

File: Mathlib/Logic/Relation.lean [hunk 19]
```diff
@@ -741,6 +741,7 @@ theorem is_equivalence : Equivalence (@EqvGen α r) :=
 
 The motivation for this definition is that `Quot r` behaves like `Quotient (EqvGen.setoid r)`,
 see for example `Quot.eqvGen_exact` and `Quot.eqvGen_sound`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Logic/Relation.lean:744]:
```suggestion
```

File: Mathlib/MeasureTheory/Function/AEEqFun.lean [hunk 20]
```diff
@@ -90,6 +90,7 @@ variable (β)
 
 /-- The equivalence relation of being almost everywhere equal for almost everywhere strongly
 measurable functions. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/AEEqFun.lean:93]:
```suggestion
```

File: Mathlib/ModelTheory/Equivalence.lean [hunk 21]
```diff
@@ -201,6 +201,7 @@ protected theorem imp {φ ψ φ' ψ' : L.BoundedFormula α n} (h : φ ⇔[T] ψ)
 end Iff
 
 /-- Semantic equivalence forms an equivalence relation on formulas. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/ModelTheory/Equivalence.lean:204]:
```suggestion
```

File: Mathlib/Order/Filter/Germ/Basic.lean [hunk 22]
```diff
@@ -70,6 +70,7 @@ theorem const_eventuallyEq [NeBot l] {a b : β} : ((fun _ => a) =ᶠ[l] fun _ =>
   @const_eventuallyEq' _ _ _ _ a b
 
 /-- Setoid used to define the space of germs. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Order/Filter/Germ/Basic.lean:73]:
```suggestion
```

File: Mathlib/Order/Filter/Germ/Basic.lean [hunk 23]
```diff
@@ -80,6 +81,7 @@ def Germ (l : Filter α) (β : Type*) : Type _ :=
 
 /-- Setoid used to define the filter product. This is a dependent version of
   `Filter.germSetoid`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Order/Filter/Germ/Basic.lean:84]:
```suggestion
```

File: Mathlib/Order/Types/Defs.lean [hunk 24]
```diff
@@ -49,6 +49,7 @@ variable {α β : Type u} [LinearOrder α] [LinearOrder β] {δ : Sort v}
 
 /-- Equivalence relation on linear orders on arbitrary types in universe `u`, given by order
 isomorphism. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Order/Types/Defs.lean:52]:
```suggestion
```

File: Mathlib/Order/Antisymmetrization.lean [hunk 25]
```diff
@@ -121,7 +121,7 @@ section IsPreorder
 variable (α) (r : α → α → Prop) [IsPreorder α r]
 
 /-- The antisymmetrization relation as an equivalence relation. -/
-@[simps]
+@[simps, implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Order/Antisymmetrization.lean:124]:
```suggestion
@[simps]
```

File: Mathlib/Order/DirectedInverseSystem.lean [hunk 26]
```diff
@@ -96,6 +96,7 @@ open DirectedSystem
 variable [IsDirectedOrder ι]
 
 /-- The setoid on the sigma type defining the direct limit. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Order/DirectedInverseSystem.lean:99]:
```suggestion
```

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 27]
```diff
@@ -314,6 +314,7 @@ lemma val_posSubmonoid_ne_zero (x : posSubmonoid R) : (x : R) ≠ 0 := by
 
 variable (R) in
 /-- The setoid used to construct `ValueGroupWithZero R`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean:317]:
```suggestion
```

File: Mathlib/Topology/Connected/Clopen.lean [hunk 28]
```diff
@@ -471,6 +471,7 @@ end Preconnected
 
 section connectedComponentSetoid
 /-- The setoid of connected components of a topological space -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Topology/Connected/Clopen.lean:474]:
```suggestion
```

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 29]
```diff
@@ -99,6 +99,7 @@ theorem Joined.inv {G : Type*} [Inv G] [TopologicalSpace G] [ContinuousInv G]
 variable (X)
 
 /-- The setoid corresponding the equivalence relation of being joined by a continuous path. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Topology/Connected/PathConnected.lean:102]:
```suggestion
```

File: Mathlib/Topology/Defs/Filter.lean [hunk 30]
```diff
@@ -231,6 +231,7 @@ def specializationPreorder : Preorder X :=
     lt := fun x y => y ⤳ x ∧ ¬x ⤳ y }
 
 /-- A `setoid` version of `Inseparable`, used to define the `SeparationQuotient`. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Topology/Defs/Filter.lean:234]:
```suggestion
```

File: Mathlib/Topology/EMetricSpace/Defs.lean [hunk 31]
```diff
@@ -447,6 +447,7 @@ theorem ordConnected_setOf_eball_subset (x : α) (s : Set α) : OrdConnected { r
   ⟨fun _ _ _ h₁ _ h₂ => (eball_subset_eball h₂.2).trans h₁⟩
 
 /-- Relation “two points are at a finite edistance” is an equivalence relation. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Topology/EMetricSpace/Defs.lean:450]:
```suggestion
```

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 32]
```diff
@@ -404,6 +404,7 @@ section
 variable (X)
 
 /-- The smallest equivalence relation on a topological space giving a T2 quotient. -/
+@[implicit_reducible]
```
Comment (sgouezel) [inline Mathlib/Topology/Separation/Hausdorff.lean:407]:
```suggestion
```
